US08044043B2
(E)-6-(2,3-difluorophenyl)-8,9-dihydro-7H-cyclohepta[b]pyridin-9-ol.
The mixture of (E)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine (1.6072 g, 3.74 mmol) and TBAF (7.48 mL, 7.48 mmol) in THF (10 mL) was stirred at room temperature for 1 hour. LCMS showed no more starting material and conversion of the desired product. The solvent was removed via vacuum. The reaction was purified by flash column eluted with ethyl acetate in hexane from 0 to 35% to 50% to afford the desired product as a white solid (0.825 g, 81%). All analytical data matched that of previously described.

reactant | (E)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine | 3.74 mmol, 1.6072 g | FC1=C(C=CC=C1F)/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C25H33F2NOSi
reactant | TBAF | 7.48 mmol, 7.48 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-6-(2,3-difluorophenyl)-8,9-dihydro-7H-cyclohepta[b]pyridin-9-ol | FC1=C(C=CC=C1F)/C/1=C/C=2C(=NC=CC2)C(CC1)O | C16H13F2NO
